US07847047B2
(Synthesis of N-acryloylasparagineamide)
A 5 ml portion of acrylic acid chloride and 200 ml of diethyl ether were put into a 500 ml capacity eggplant type flask and stirred on an ice bath. Next, 1.84 g of asparagineamide hydrochloride (mfd. by Kokusan Kagaku) was dissolved in 40 ml of deionized water, and 3 g of potassium carbonate was dissolved in 20 ml of deionized water. The asparagineamide aqueous solution was mixed with the potassium carbonate aqueous solution. The mixed liquid was added dropwise into the eggplant type flask spending 10 minutes while stirring constantly, and the mixture after completion of the dropwise addition was stirred for 24 hours. Diethyl ether layer in the thus obtained reaction liquid was discarded, and the water layer was concentrated at 25° C. under a reduced pressure. One liter of acetone was added to the thus obtained residue and stirred for 1 hour. The insoluble solids were removed by suction filtration. By recrystallizing from the acetone layer, 0.5 g of colorless crystals were obtained.

reactant | acrylic acid chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | asparagineamide hydrochloride | 1.84 g | Cl.N[C@@H](CC(N)=O)C(=O)N
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | asparagineamide | N[C@@H](CC(N)=O)C(=O)N | C4H9N3O2
solvent | water | 40 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-acryloylasparagineamide | 0.5 g | C(C=C)(=O)NC([C@@H](N)CC(N)=O)=O | C7H11N3O3
